US04526891
A stirred suspension of 4-(2-carboxybenzyloxy)phenylpropanoic acid (47.14 g, 0.157 mol) and dichloromethane (500 ml) was treated over 30 seconds with trifluoroacetic anhydride (75.61 g, 0.36 mol). The solid material slowly dissolved. The solution was heated 6 hours under reflux with exclusion of moisture. The cooled solution was treated with water (100 ml) and stirred 20 minutes at ambient temperature (mild exotherm). The mixture was strongly acidified with 5% hydrochloric acid and thoroughly agitated. The organic phase was washed with water (200 ml), dried (Na2SO4) and evaporated to dryness. Recrystallization from 65 ml of isopropanol afforded 35.3 g (79.6%) of 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-propanoic acid, m.p. 138.5°-139.5° C. The compound appeared pure and chromatographically identical with material which had previously been prepared according to procedure 6C below except that it is postulated that the product exists in two polymorphic forms and interconversion by partial melting followed by solidification to afford the higher melting form occurs at 128°-130° C.

reactant | 4-(2-carboxybenzyloxy)phenylpropanoic acid | 0.157 mol, 47.14 g | C(=O)(O)C1=C(COC2=CC=C(C=C2)C(C(=O)O)C)C=CC=C1 | C17H16O5
reactant | dichloromethane | 500 ml | ClCCl | CH2Cl2
reactant | trifluoroacetic anhydride | 0.36 mol, 75.61 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-propanoic acid | 35.3 g, 79.6% | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CCC(=O)O | C17H14O4
